* d:\circuit_design\fossee\astablemv\astablemv.cir

.include BC547B.lib
.include LED.lib
q1 led1 net-_c2-pad2_ gnd BC547B
q2 led2 net-_c1-pad2_ gnd BC547B
c1  led1 net-_c1-pad2_ 22u
c2  led2 net-_c2-pad2_ 22u
r1  in net-_d1-pad1_ 1k
r2  in net-_c1-pad2_ 68k
r3  in net-_c2-pad2_ 68k
r4  in net-_d2-pad1_ 1k
d2 net-_d2-pad1_ led2 LED
d1 net-_d1-pad1_ led1 LED
v1 in gnd  dc 9
* u1  led1 plot_v1
* u2  led2 plot_v1
* u3  in plot_v1
.tran 10e-03 12e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(led1)
plot v(led2)
plot v(in)
.endc
.end
