* d:\circuit_design\fossee\rc\rc.cir

r1  in out 1k
c1  out gnd 1u
v1  in gnd sine(0 5 50 0 0)
* u1  in plot_v1
* u2  out plot_v1
.tran 5e-03 30e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
